US05264454
To a mixture of 2,4-difluorophenylacetic acid (206 mg), DMF (1 drop) and tetrahydrofuran (4 ml) was added oxalyl chloride (0.13 ml) dropwise. The resulting mixture was stirred at room temperature for 1 hour and the solvent was then distilled off to give 2,4-difluorophenylacetyl chloride. This chloride was dissolved in dichloromethane (5 ml) followed by addition of 3-amino-4-(2-chlorophenyl)-7,8-dihydro-6H-cyclopenta[g]quinoline (294 mg) and N,N-dimethylaniline (0.13 ml). The mixture was further stirred at room temperature for 3 hours, after which it was washed with water, saturated aqueous solution of NaHCO3 and water in the order mentioned and dried (over MgSO4). The solvent was then distiled off to give 4-(2-chlorophenyl)-3-(2,4-difluorophenylacetylamino)-7,8-dihydro-6H-cyclopenta(g)quinoline as oil. This oil was crystallized from isopropyl ether (yield 342 mg, 76.3%). Recrystallization from ethanol gave colorless prisms, mp. 179°-180° C.

reactant | 2,4-difluorophenylacetic acid | 206 mg | FC1=C(C=CC(=C1)F)CC(=O)O | C8H6F2O2
reactant | oxalyl chloride | 0.13 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 2,4-difluorophenylacetyl chloride | FC1=C(C=CC(=C1)F)CC(=O)Cl | C8H5ClF2O
